US07101903B2
{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methyl acetate
The title compound was prepared from {1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methanol and acetyl chloride in substantially the same manner, as described in step 4 of Example 1. The product was obtained as an oil. Mass spectrum (ESI, [M+H]+) m/z 440. 1H NMR (300 MHz, DMSO-d6) δ 7.88 (s, 1H), 7.77 (d, 2H, J=8.87 Hz), 7.48–7.40 (m, 4H), 7.29–7.22 (m, 3H), 7.00 (d, 2H, J=7.01 Hz), 6.72 (s, 1H), 5.50 (s, 2H), 5.24 (s, 2H), and 1.80 ppm (s, 3H).

reactant | {1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methanol | C(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)CO | C23H18F3NO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | {1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methyl acetate | C(C)(=O)OCC=1N(C2=CC=C(C=C2C1)C1=CC=C(C=C1)OC(F)(F)F)CC1=CC=CC=C1 | C25H20F3NO3
